* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\SR Flop Circuit Test.asc
* Generated by LTspice 24.1.4 for Windows.
A1 N001 N006 0 0 0 0 N002 0 SRFLOP
V1 N001 0 5
V2 N006 0 PULSE(0 1 0 1m 1m 2m 5m 20)
A2 N009 0 0 0 0 0 N010 0 SRFLOP
V4 N009 0 PULSE(0 1 0 1m 1m 2m 5m 20)
A3 0 N007 0 0 0 0 N003 0 SRFLOP
V5 N007 0 PULSE(0 1 10m 1m 1m 2000m 2500m 1)
A4 N004 0 N008 0 0 0 N005 0 DFLOP
V6 N008 0 PULSE(0 1 13.4m 1u 1u 82m 84m 2)
V7 N004 0 PULSE(0 1 0 1m 1m 2m 5m 20)
.tran 100m
.backanno
.end
